US04182624
1-Benzhydryl-5-methoxycarbonyl-imidazole
1.7 g (0.01 mol) of 1-acetyl-4-methoxycarbonyl-imidazole in 5 cc of acetonitrile and 2 g of benzhydryl-chloride were refluxed for 4 hours, the solvent was removed under reduced pressure and the residue was stirred with 15 cc of 0.5 N sodium acetate solution to split off the acetyl group. The 1-benzhydryl-5-methoxycarbonyl-imidazole, m.p. 129° C., was recrystallized from chloroform.

reactant | 1-acetyl-4-methoxycarbonyl-imidazole | 0.01 mol, 1.7 g | C(C)(=O)N1C=NC(=C1)C(=O)OC | C7H8N2O3
reactant | benzhydryl-chloride | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H11Cl
solvent | acetonitrile | 5 cc | C(C)#N | C2H3N
product | 1-Benzhydryl-5-methoxycarbonyl-imidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC=C1C(=O)OC | C18H16N2O2
